US07262198B2
A solution of 3-methylene-1-phenylazolidine-2,5-dione (250 mg, 1.33 mmol) and 1-(2-methylbenzothiazol-5-yloxy)-3-piperazin-1-ylpropan-2-ol (415 mg, 1.35 mmol) in AcOH (10 mL, glacial) was stirred 14 hours at 50° C. Concentrated in the Savant™ and residue taken up in EtOAc and washed with NaHCO3 (sat. aq. soln.), H2O and brine, dried over MgSO4, filtered and concentrated. Purification via flash column chromatography (gradient 5 to 10% MeOH/EtOAc) afforded 3-({4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}methyl)-1-phenylazolidine-2,5-dione.

reactant | 3-methylene-1-phenylazolidine-2,5-dione | 1.33 mmol, 250 mg | C=C1C(N(C(C1)=O)C1=CC=CC=C1)=O | C11H9NO2
reactant | 1-(2-methylbenzothiazol-5-yloxy)-3-piperazin-1-ylpropan-2-ol | 1.35 mmol, 415 mg | CC=1SC2=C(N1)C=C(C=C2)OCC(CN2CCNCC2)O | C15H21N3O2S
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 3-({4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}methyl)-1-phenylazolidine-2,5-dione | O[C@H](CN1CCN(CC1)CC1C(N(C(C1)=O)C1=CC=CC=C1)=O)COC=1C=CC2=C(N=C(S2)C)C1 | C26H30N4O4S
